US05612356
Ethyl 4-(3-bromo-1-propynyl)benzoate
1.7 g of carbon tetrabromide and 1.15 g of triphenylphosphine were added to 10 ml of a solution of 0.70 g of ethyl 4-(3-hydroxy-1-propynyl)benzoate in methylene chloride at room temperature. The obtained mixture was stirred at that temperature for 13 hours, followed by the addition thereto of 20 ml of water. The obtained mixture was extracted with ethyl acetate. The organic phase was washed with a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by silica gel chromatography (developer: 5% diethyl ether/n-hexane) to give 1.0 g of the title compound as a pale-yellow oil. 1H-NMR (400 MHz, CDCl3) δ(ppm); 1.38(t, J=7.2 Hz, 3H), 4.17(s, 2H), 4.36(q, J=7.2 Hz, 2H), 7.50(d, J=8.4 Hz, 2H), 7.99(d, J=8.4 Hz, 2H)

reactant | carbon tetrabromide | 1.7 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 4-(3-hydroxy-1-propynyl)benzoate | 0.70 g | OCC#CC1=CC=C(C(=O)OCC)C=C1 | C12H12O3
reactant | water | 20 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(3-bromo-1-propynyl)benzoate | 1.0 g | BrCC#CC1=CC=C(C(=O)OCC)C=C1 | C12H11BrO2
